US04107308
8-Methyl-6-n-propyl-imidazo[1,5-d]-as-triazine-4(3H)-thione
A mixture of 32.12 gm. of 3-[(5-methyl-2-n-propyl-4-imidazolyl)methylene]dithiocarbazic acid methyl ester and 200 ml. of diphenyl ether is reacted as described in Example 23 giving the desired product, m.p. 183°-186° C.

reactant | 3-[(5-methyl-2-n-propyl-4-imidazolyl)methylene]dithiocarbazic acid methyl ester | CSC(NN=CC=1N=C(NC1C)CCC)=S | C10H16N4S2
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 8-Methyl-6-n-propyl-imidazo[1,5-d]-as-triazine-4(3H)-thione | CC=1N=C(N2C(NN=CC21)=S)CCC | C9H12N4S
